US09376418B2
NaH (0.250 g, 6.25 mmol) was added to a mixture of ethyl 4-hydroxycyclohexanoate (0.916 ml, 5.68 mmol), and 5-bromo-2-fluoropyridine (0.585 mL, 5.68 mmol) in DMF (15 mL) at room temperature under an Argon atmosphere. The reaction mixture was heated to 80° C. for 2.5 hours. Upon cooling, the reaction mixture was diluted with saturated NaHCO3 (50 mL), and extracted with ethyl acetate (50 mL) and diethyl ether (50 mL). The organic layer was washed with water, brine, dried over sodium sulfate, filtered, concentrated in vacuo and purified by silica gel chromatography (hexanes/ethyl Acetate) to afford ethyl 4-[(5-bromopyridin-2-yl)oxy]cyclohexanecarboxylate. MS ESI calc'd. for C14H19BrNO3 [M+H]+ 328 and 330. found 328 and 330.

reactant | NaH | 6.25 mmol, 0.250 g | [H-].[Na+]
reactant | ethyl 4-hydroxycyclohexanoate | 5.68 mmol, 0.916 ml | OC1CCC(CC1)C(=O)OCC | C9H16O3
reactant | 5-bromo-2-fluoropyridine | 5.68 mmol, 0.585 mL | BrC=1C=CC(=NC1)F | C5H3BrFN
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
product | ethyl 4-[(5-bromopyridin-2-yl)oxy]cyclohexanecarboxylate | BrC=1C=CC(=NC1)OC1CCC(CC1)C(=O)OCC | C14H18BrNO3
